US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-3-methyl-4-morpholinobenzamide
To a solution of 3-methyl-4-morpholinobenzoic acid (10 mg, 0.51 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added 1,1'-carbonyldiimidazole (87 mg, 0.54 mmol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 30 min), the reaction was cooled to room temperature and a solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (120 mg, 0.49 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added. The reaction was allowed to stir at ambient temperature for 15 h and the solvent was evaporated in vacuo. Purification on a silica gel column using chloroform/ethanol saturated with NH3 (100:2) as the eluent gave 110 mg (50% yield) of the title compound as white crystals: mp 172-175° C.; [α]21D -47° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 448 (5, M+).

reactant | 3-methyl-4-morpholinobenzoic acid | 0.51 mmol, 10 mg | CC=1C=C(C(=O)O)C=CC1N1CCOCC1 | C12H15NO3
reactant | 1,1'-carbonyldiimidazole | 0.54 mmol, 87 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.49 mmol, 120 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-3-methyl-4-morpholinobenzamide | 110 mg, 50% yield | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC(=C(C=C1)N1CCOCC1)C)=O | C27H36N4O2
